US04568680
2-(2-Methoxy-4-methylmercapto-phenyl)-5H-imidazo[4,5-c]pyridin-4-one
0.88 g of 2-methoxy-3,4-diamino-pyridine hydrochloride and 1.08 g of 2-methoxy-4-methylmercapto-benzoyl chloride were intimately mixed, and the mixture was stirred into warm polyphosphoric acid at 120° C. The mixture was kept at this temperature for an hour and was then poured into water, the aqueous mixture was made alkaline with ammonia, and the precipitate thus obtained was purified on a silica gel column (eluant: methylene chloride/methanol=100:10).

reactant | 2-methoxy-3,4-diamino-pyridine hydrochloride | 0.88 g | Cl.COC1=NC=CC(=C1N)N
reactant | 2-methoxy-4-methylmercapto-benzoyl chloride | 1.08 g | COC1=C(C(=O)Cl)C=CC(=C1)SC | C9H9ClO2S
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | 2-(2-Methoxy-4-methylmercapto-phenyl)-5H-imidazo[4,5-c]pyridin-4-one | COC1=C(C=CC(=C1)SC)C1=NC=2C(C(NCC2)=O)=N1 | C14H13N3O2S
